US05665733
N,N,2-Trimethyl-1-oxo-3-phenyl-1,2-dihydroisoquinoline-4-propanamide.
A suspension of 0.9 g (2.93 mmol) of 2-methyl-1-oxo-3-phenyl-1,2-dihydroisoquinoline-4-propanoic acid in 150 ml of dichloromethane is prepared in a 500 ml round-bottomed flask placed under an argon atmosphere, 0.7 g (4.3 mmol) of N,N'-carbonyldiimidazole is added, the mixture is stirred at room temperature for 2 h, is saturated for 1 min with gaseous dimethylamine and stirring is continued for 12 h. The solvent is evaporated under reduced pressure, the residue is taken up in 200 ml of dichloromethane, 100 ml of water and 1M hydrochloric acid, the organic phase is separated, washed with water, dried over sodium sulphate and filtered and the solvent is evaporated under reduced pressure. The residue is purified by chromatography on a column of silica gel, elution being carried out with a mixture of dichloromethane and ethyl acetate ranging from 100/0 to 70/30 and then with a 95/5 mixture of dichloromethane and methanol. After recrystallizing from a mixture of dichloromethane, methanol and acetonitrile, 0.72 g (2.15 mmol) of white solid is obtained. Melting point: 165.5°-166° C.

reactant | 2-methyl-1-oxo-3-phenyl-1,2-dihydroisoquinoline-4-propanoic acid | 2.93 mmol, 0.9 g | CN1C(C2=CC=CC=C2C(=C1C1=CC=CC=C1)CCC(=O)O)=O | C19H17NO3
reactant | dimethylamine | CNC | C2H7N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | N,N,2-Trimethyl-1-oxo-3-phenyl-1,2-dihydroisoquinoline-4-propanamide | 2.15 mmol, 0.72 g | CN(C(CCC1=C(N(C(C2=CC=CC=C12)=O)C)C1=CC=CC=C1)=O)C | C21H22N2O2
